US07312214B2
Part A. To a slurry of 1-(4-iodo-phenyl)-cyclopropane-carboxylic acid (0.693 g, 2.41 mmol) in CH2Cl2 (3.0 mL) at 0° C. was added (COCl)2 (0.40 mL, 4.6 mmol) dropwise. The reaction was warmed to rt and stirred under N2 for 1 h. The reaction was monitored by LC/MS. Upon completion the reaction was concentrated on the rotary evaporator and diluted with CH2Cl2 (3 mL). Ethanolamine (0.30 mL, 4.54 mmol) was added drop-wise and the reaction stirred for 1.5 h. The reaction was then quenched with H2O and extracted with EtOAc (2×). The organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated to dryness. The crude 1-(4-iodo-phenyl)-cyclopropanecarboxylic acid (2-hydroxy-ethyl)-amide was taken directly to the next reaction without further purification. LC/MS (ESI+) 332.2 (M+H)+, tR=2.16 min (10–90% CH3CN/H2O in a 4-min run). It was dissolved in THF (10.0 mL) and methoxycarbonylsulfamoyl triethylammonium hydroxide inner salt (0.61 g, 2.56 mmol) was added. The reaction was heated to 70° C. for 2 h and then cooled. The reaction mixture was diluted with EtOAc and washed with H2O (2×), brine, dried over Na2SO4, filtered, and concentrated to dryness. The residue was purified by flash chromatography (silica, EtOAc:Hexanes 3:1) to 2-[1-(4-iodo-phenyl)-cyclopropyl]-4,5-dihydro-oxazole (0.41 g, yield: 55%). LC/MS (ESI+) 314.0 (M+H), tR=1.62 min (10–90% CH3CN/H2O in a 4-min run). 1H NMR (CDCl3) δ 7.65 (d, J=8 Hz, 2H), 7.13 (d, J=8.4 Hz, 2H), 4.32 (t, J=9.5 Hz, 2H), 3.87 (t, J=9.1, 9.6, 2H), 1.67 (m, 2H), 1.23 (m, 2H) ppm.

reactant | 1-(4-iodo-phenyl)-cyclopropane-carboxylic acid | 2.41 mmol, 0.693 g | IC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9IO2
reactant | (COCl)2 | 4.6 mmol, 0.40 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | Ethanolamine | 4.54 mmol, 0.30 mL | C(O)CN | C2H7NO
reactant | methoxycarbonylsulfamoyl triethylammonium hydroxide | 2.56 mmol, 0.61 g | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN H2O | CC#N.O
product | 2-[1-(4-iodo-phenyl)-cyclopropyl]-4,5-dihydro-oxazole | 0.41 g, yield: 55% | IC1=CC=C(C=C1)C1(CC1)C=1OCCN1 | C12H12INO
